US06887874B2
A solution of 1-piperazinecarboxaldehyde (25 g, 0.219 mol), 3-bromo-1-propanol (33.5 g, 0.241 mol) and potassium carbonate (38 g, 0.273 mol) in methanol (33 ml) was heated at reflux for 5 hours. After cooling, the solid was filtered, washed with methanol and the filtrate was evaporated. The residue was dissolved in methylene chloride and washed with a small amount of water. The organic layer was washed with brine, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography eluting with methylene chloride/methanol (90/10 followed by 80/20) to give 4-(3-hydroxypropyl)-1-piperazinecarboxaldehyde (4.5 g, 12%).

reactant | 1-piperazinecarboxaldehyde | 0.219 mol, 25 g | N1(CCNCC1)C=O | C5H10N2O
reactant | 3-bromo-1-propanol | 0.241 mol, 33.5 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 0.273 mol, 38 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 33 ml | CO | CH4O
product | 4-(3-hydroxypropyl)-1-piperazinecarboxaldehyde | 4.5 g, 12% | OCCCN1CCN(CC1)C=O | C8H16N2O2
